Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.24419814552
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7].[O:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],-6.465702512000001
[C:1]#[C:2][O:3][C:4][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:5]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.88458182078
[O:1]=[C:2]([H:3])[H:4]>>[C:2]([H:3])[H:4].[O:1],8.52964849
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],2.22260839017
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:4],1.82275410761
[H:1][C:2]=[C:3]([H:4])[C:5][H:6].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],-4.92675955819
[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][O:9][H:10].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][O:9][H:10],-7.59749721208
[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:5]#[C:3][H:4],1.5945679834600002
[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.12410148276
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.4451454385
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2].[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],7.17638510492
[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.69662955249
[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])=[C:5]([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2],6.7947018548
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.60178954954
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[C:10]([H:11])([H:12])=[C:13][H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:15]([H:16])[H:17],4.442122873480001
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12],3.76847921984
[C:6]([H:7])([H:8])=[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-2.86913777988
[O:1]=[C:2]([C:3][H:4])[O:5][H:6]>>[C:3][H:4].[O:1]=[C:2][O:5][H:6],5.43195876651
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:2](\[O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:1],6.46969321905
[C:8][H:9].[H:1][C:2][O:3][C:4][O:5][C:6][H:7]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8][H:9],-8.259444503860001
[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11]([H:12])([H:13])[H:14],-3.82046350212
[H:1][C:2]#[C:3][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.0657199592
[C:9]([H:10])[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][H:8]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-7.44732992494
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]1([H:8])[C:9][C:10]1[H:11],1.56002786183
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],5.28619285737
[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][C:2](=[O:3])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.119395988429
[C:4]=[C:5]([O:6][H:7])[O:8][H:9].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[O:8][H:9],-6.764487849680001
[H:1][O:2][c:3]1[c:4][c:5]([H:6])[c:7]([H:8])[o:9]1>>[H:1][O:2][C:3](=[C:4])[O:9][C:7](=[C:5][H:6])[H:8],5.037189844719999
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9]>>[C:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][O:9].[H:4],3.97920553282
